US07601714B2
Compound N-(2,5-dichloro-pyridin-4-ylmethyl)-acetamide (250 mg, 1.14 mmol) was added to 33% H2SO4 (3 mL) and the mixture heated in a CEM microwave reactor at 200° C. for 30 min. After cooling to room temperature, the reaction mixture was diluted with water (20 mL) and basified with excess concentrated NH4OH. The reaction mixture was then frozen using a dry ice/acetone bath and evaporated to dryness in vacuo overnight in a freeze-dry apparatus. The solids were purified by column chromatography using a 12 g ISCO combi-flash column and dry-loading cartridge (silica gel, 100:0 to 50:50 DCM:DCM/MeOH/NH4OH 6:3:1) to afford N-(5-chloro-2-oxo-1,2-dihydro-pyridin-4-ylmethyl)-acetamide (246 mg, quant.) as an off-white solid. This material was directly in the next step.

reactant | N-(2,5-dichloro-pyridin-4-ylmethyl)-acetamide | 1.14 mmol, 250 mg | ClC1=NC=C(C(=C1)CNC(C)=O)Cl | C8H8Cl2N2O
reactant | H2SO4 | 3 mL | OS(=O)(=O)O | H2O4S
reactant | NH4OH | [NH4+].[OH-]
solvent | water | 20 mL | O | H2O
product | N-(5-chloro-2-oxo-1,2-dihydro-pyridin-4-ylmethyl)-acetamide | 246 mg | ClC=1C(=CC(NC1)=O)CNC(C)=O | C8H9ClN2O2
